US04055428
a. Synthesis of dimethanesulfonyl toluhydroquinone
In 500 ml. of pyridine was dissolved 124 g. of toluhydroquinone and then 170 ml. of methanesulfonyl chloride was added dropwise to the solution while stirring at a temperature below 25° C. Thereafter, the mixture was further stirred for one hour at room temperature. After the reaction was over, 500 ml. of chloroform was added to the reaction mixture and the resultant mixture was washed several times with water, then with 10% hydrochloric acid and finally once with water. The chloroform layer formed was recovered and dried over anhydrous sodium sulfate. After filtering, the solvent was distilled off from the filtrate and the residue formed was recrystallized from methanol to provide 230 g. of the desired compound of a melting point of 80° to 82° C.

reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | toluhydroquinone | C=1(C(C)=CC(O)=CC1)O | C7H8O2
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | dimethanesulfonyl toluhydroquinone | CS(=O)(=O)C(C=1C(=CC=C(C1)O)O)S(=O)(=O)C | C9H12O6S2
